US05658491
Preparation of 5-Octyl-2-[4-(3-(2-(2-(pentafluoroethoxy) tetrafluoroethoxy)-2,2-difluoroethoxy)propoxy)phenyl]pyrimidine
The title compound was prepared essentially as in Example 1 by combining 5-octyl-2-(4-hydroxyphenyl)pyrimidine (2.0 g, 7.3 mmol), 3-(2-(2-(pentafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-1-bromopropane (3.38 g, 7.47 mmol; prepared by combining 1,3-dibromopropane with 3-(2-(2-(pentafluoroethoxy)tetrafluorooethoxy)-2,2-difluoroethanol), and potassium carbonate (1.16 g, 8.43 mmol) in acetonitrile (20 mL) and refluxing the resulting mixture under nitrogen overnight. The mixture was cooled and filtered, and the resulting solids were washed with toluene (50 mL). The toluene was then removed under reduced pressure, and the resulting waxy solid was dissolved in toluene (50 mL) and washed with three 30 mL aliquots of perfluorohexane. After removing the toluene under reduced pressure, the resulting crude product was further purified by silica gel chromatography, eluting with 20 volume percent ethyl acetate/hexane, to yield 3.60 g of purified product.

reactant | 5-octyl-2-(4-hydroxyphenyl)pyrimidine | 7.3 mmol, 2.0 g | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C18H24N2O
reactant | 3-(2-(2-(pentafluoroethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-1-bromopropane | FC(C(F)(F)F)(OC(C(OC(COCCCBr)(F)F)(F)F)(F)F)F | C9H8BrF11O3
reactant | 1,3-dibromopropane | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 8.43 mmol, 1.16 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 5-Octyl-2-[4-(3-(2-(2-(pentafluoroethoxy) tetrafluoroethoxy)-2,2-difluoroethoxy)propoxy)phenyl]pyrimidine | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)OCCCOCC(F)(F)OC(C(OC(C(F)(F)F)(F)F)(F)F)(F)F | C27H31F11N2O4
